US09284331B2
Step 2: 9-cyclopropyl-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-1,7,8,12b-tetrahydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 143. 9-bromo-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-1,7,8,12b-tetrahydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (148 mg, 0.367 mmol) was dissolved in toluene (3.6 mL) and S-Phos (49 mg, 0.117 mmol), cyclopropylboronic acid (66 mg, 0.734 mmol) and K3PO4 (164 mg, 0.771 mmol) were added. The suspension was degassed, Pd(OAc)2 (17 mg, 0.073 mmol) was added under Argon and the mixture was heated at 100° C. for 1.5 h. The mixture was allowed to warm to RT and filtered through a pad of celite and the solvent was removed under reduced pressure. The crude product was purified by flash-column chromatography over silicagel (Biotage Isolera Four, eluent: 1% MeOH in DCM for 3 min, then from 1% MeOH in DCM to 4% MeOH in DCM in 12 min, 4% MeOH in DCM for 3 min) to yield a yellow foam. Further purification by SFC (column: 2-Ethylpyridine 5 μm, 250×30 mm, 60 A, Princeton; eluent: 11% MeOH/CO2 for 1 min, then from 11% MeOH/CO2 to 16% MeOH/CO2 in 6 min; flow 100 mL/min; UV detection at 220 nm) gave the title compound as white foam (30 mg). UPLC-MS: MS 365.3 (M+H+); UPLC rt 0.85 min. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.51-0.66 (m, 2 H), 0.86-0.98 (m, 2 H), 1.86-2.00 (m, 1 H), 2.97-3.09 (m, 2 H), 3.21 (s, 3 H), 3.54-3.66 (m, 1 H), 3.67-3.77 (m, 1 H), 4.11-4.30 (m, 3 H), 5.26 (d, J=15.31 Hz, 1 H), 5.73 (dd, J=9.91, 4.89 Hz, 1 H), 6.95 (d, J=7.28 Hz, 1 H), 7.12-7.21 (m, 1 H), 7.21-7.27 (m, 1 H), 7.57 (s, 1 H), 8.10 (s, 1 H).

reactant | 9-bromo-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-1,7,8,12b-tetrahydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 0.367 mmol, 148 mg | BrC1=C2CCN3C(C2=CC=C1)CC(=NCC3=O)N3C=NC(=C3)COC | C18H19BrN4O2
reactant | S-Phos | 0.117 mmol, 49 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | cyclopropylboronic acid | 0.734 mmol, 66 mg | C1(CC1)B(O)O | C3H7BO2
reactant | K3PO4 | 0.771 mmol, 164 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.073 mmol, 17 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 9-cyclopropyl-2-(4-(methoxymethyl)-1H-imidazol-1-yl)-1,7,8,12b-tetrahydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 30 mg | C1(CC1)C1=C2CCN3C(C2=CC=C1)CC(=NCC3=O)N3C=NC(=C3)COC | C21H24N4O2
